US07612114B2
4-Bromo-3-nitropyridine
To 4-methoxy-3-nitropyridine (3.5 g) was added 48% hydrobromic acid (30 ml), and the solution was stirred overnight at 80° C. Toluene was added thereto followed by stirring. The solvent was evaporated in vacuo. To the total amount of the resulting 3-nitropyridin-4-ol (crude product) were added phosphorous oxybromide (20 g) and chloroform (30 ml), and the solution was stirred for 2 hours at 110° C. To the reaction mixture was added an ice, the solution was neutralized with aqueous ammonia, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, then filtered through silica gel, and the solvent was evaporated in vacuo to provide the title compound (2.6 g).

reactant | 4-methoxy-3-nitropyridine | 3.5 g | COC1=C(C=NC=C1)[N+](=O)[O-] | C6H6N2O3
reactant | hydrobromic acid | 30 ml | Br | BrH
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Bromo-3-nitropyridine | 2.6 g | BrC1=C(C=NC=C1)[N+](=O)[O-] | C5H3BrN2O2
